US04743602
2,6-Dimethylmorpholine (5.0 g, 0.043 mol) was added dropwise to a solution of 2-(5-n-butylthiophen-2-yl)-cyclopropanecarbonyl chloride (4.85 g, 0.02 mol) in sodium dried ether (40 ml) at 10° C. and after complete addition the solution was stirred at 20° C. for 3 hours. The reaction mixture was poured into water and extracted with diethyl ether (2×100 ml). The ethereal extracts were washed with water, dried over anhydrous sodium sulphate, and the solvent removed to give 2-(5-n-butylthiophen-2-yl)-cyclopropanecarbonyl-2,6-dimethylmorpholine (5.8 g, 90% as a yellow oil. A solution of 2-(5-n-butylthiophen-2-yl)-chclopropanecarbonyl-2,6-dimethylmorpholine (5.8 g, 0.018 mol) in sodium dried ether (30 ml) was added dropwise to a suspension of lithium aluminium hydride (0.8 g, 0.02 mol) in sodium dried ether (20 ml) and the reaction mixture stirred at room temperature for 3 hours. The reaction mixture was poured carefully into water and extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous sodium sulphate, and the solvent removed to give a colourless oil. This oil was purified by column chromatography (silica eluted with ethyl acetate/petroleum ether 2:3) to give the title compound (1.3 g, 24%).

reactant | 2,6-Dimethylmorpholine | 0.043 mol, 5.0 g | CC1CNCC(O1)C | C6H13NO
reactant | 2-(5-n-butylthiophen-2-yl)-cyclopropanecarbonyl chloride | 0.02 mol, 4.85 g | C(CCC)C1=CC=C(S1)C1C(C1)C(=O)Cl | C12H15ClOS
reactant | water | O | H2O
solvent | sodium | 40 ml | [Na] | Na
product | 2-(5-n-butylthiophen-2-yl)-cyclopropanecarbonyl-2,6-dimethylmorpholine | C(CCC)C1=CC=C(S1)C1C(C1)C(=O)N1CC(OC(C1)C)C | C18H27NO2S
